US04404356
N-(2-Hydroxyphenyl)-N'-methylurea
Benzoxazolinone (1 mole) was stirred with 2 moles of methylamine (25% aqueous solution) for 48 hours at 50° C., then some of the water and the excess of methylamine were distilled off at 60° C. under reduced pressure. The desired urea crystallised out on cooling; it had m.pt. 130° C. (decomp.).

reactant | Benzoxazolinone | 1 mole | C=1C=CC2=C(C1)NC(=O)O2 | C7H5NO2
reactant | methylamine | 2 moles | CN | CH5N
product | N-(2-Hydroxyphenyl)-N'-methylurea | OC1=C(C=CC=C1)NC(=O)NC | C8H10N2O2
